US05158947
REFERENCE EXAMPLE 2 Preparation of 4-(5-bromopentyl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-3-one
In 20 ml of DMF was dissolved 100 mg of 2,3,4,5-tetrahydro-1,4-benzoxazepin-3-one and the solution then ice-cooled. Then, to the resulting solution were added 0.125 ml (1.5 equivalent) of 1,5-dibromopentane and 29.4 mg (1.2 equivalent) of a 60% sodium hydride oil dispersion and the mixture was stirred for 1.5 hour with ice-cooling. Thereafter, the reaction solution was reacted and/or treated and purified in the same manner as in Reference Example 1 to give 133 mg (yield: 69.5%) of the title compound.

reactant | 2,3,4,5-tetrahydro-1,4-benzoxazepin-3-one | 100 mg | O1CC(NCC2=C1C=CC=C2)=O | C9H9NO2
reactant | 1,5-dibromopentane | 0.125 ml, 1.5 equivalent | BrCCCCCBr | C5H10Br2
reactant | sodium hydride oil dispersion | [H-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(5-bromopentyl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-3-one | 133 mg, yield: 69.5% | BrCCCCCN1C(COC2=C(C1)C=CC=C2)=O | C14H18BrNO2
